US09231219B2
Film conductivity studies of rhodocene doped TIPS-pentacene were carried out as follows. 0.5 mg of rhodocene dimer and 11 mg TIPS-pentacene were mixed in 0.6 ml of chlorobenzene in an N2 glove box, and thoroughly stirred at room temperature for 2 hours to completely dissolve the materials, to produce a 5 wt % solution of the rhodocene/TIPS-pentacene in chlorobenzene. Quartz glass substrates patterned with inter-digitated Au electrodes with 150 [tin spacings (see description above]), The undoped and doped films were formed by drop-casting the solution of pure TIPS-pentacene or the co-solution (with dopant) in a N2 box onto the substrates that were heated to 90° C., followed by post-annealing at the same temperature for 5 min. Electrical characteristics of the resulting simple devices were measured in the glove box by connecting a two point probe station to the gold electrodes of the devices.

reactant | rhodocene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Rh+2]
reactant | rhodocene | 0.5 mg | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Rh+2]
reactant | TIPS-pentacene | 11 mg | CC(C)[Si](C#CC1=C2C=C3C=CC=CC3=CC2=C(C4=CC5=CC=CC=C5C=C41)C#C[Si](C(C)C)(C(C)C)C(C)C)(C(C)C)C(C)C | C44H54Si2
solvent | chlorobenzene | 0.6 ml | ClC1=CC=CC=C1 | C6H5Cl
product | rhodocene TIPS-pentacene | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Rh+2].CC(C)[Si](C#CC1=C2C=C3C=CC=CC3=CC2=C(C4=CC5=CC=CC=C5C=C41)C#C[Si](C(C)C)(C(C)C)C(C)C)(C(C)C)C(C)C | InChI=1S/C44H54Si2.2C5H5.Rh/c1-29(2)45(30(3)4,31(5)6)23-21-39-41-25-35-17-13-15-19-37(35)27-43(41)40(22-24-46(32(7)8,33(9)10)34(11)12)44-28-38-20-16-14-18-36(38)26-42(39)44;2*1-2-4-5-3-1;/h13-20,25-34H,1-12H3;2*1-5H;/q;2*-1;+2
